Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall, found down 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ with schizophrenia with unknown functional 
baseline who was found down
with altered mental status and transferred from group home
(___) on ___ with a subdural hematoma. He was
found on the ___ with facial abrasions suggestive of possible
assault. CT face and C-spine were without fracture. GCS ___ 
but
he was noted to be stuporous and verbally slow to respond. 

In the ED, initial vitals were: 97.4 | 96 | 120/79 | 18 | 96% RA 

Exam otherwise described as: AAOx3. RRR. Crackles in the bases
bilaterally, otherwise CTAB. NTND abd. No c/c/e. Abrasion over
the left shoulder and left face. EOMI. Strength and sensation
intact and symmetric. Gait normal.

Per the EMS report, he had fled his halfway home for unknown 
reasons and was found face-down in the grass in the rain. He 
reported a headache but otherwise could not provide reliable
history of the events leading up to hospitalization. 

Labs were notable for:

WBC 13.2
Tox screen: negative for ASA, ETOH, acetaminophen, benzo, TCA,
barbiturates  
Urine tox: negative for benzos, barbs, opiate, cocaine,
amphetamine, oxycodone, methadone 
UA: negative leukocytes, nitrite, +ketone 

Imaging notable for: 

___ CT HEAD WITHOUT CONTRAST IMPRESSION:
1. No significant interval change in likely acute to subacute 2
mm left frontal subdural hematoma. No new hemorrhage.
2. Left facial soft tissue hematoma/swelling

___ CHEST XRAY IMPRESSION: Ill-defined left lower lobe
opacities may reflect atelectasis or pneumonia in the proper
clinical context. 

___ CT HEAD W/O CONTRAST IMPRESSION: No interval change to
slightly decreased conspicuity to the 2 mm left frontal
extra-axial hyperdensity, possibly reflecting a tiny subdural
hematoma. 

NEUROSURGERY was consulted and described: Pupils 2mm sluggish.
Very slight L downward drift. Tremulous upper extremities. 
Repeat
imaging stable. They recommended Keppra 1000mg x7 days,
maintaining SBP <160, follow up in ___ clinic. Given no expasion
to hematoma in interval imaging, neurosurgery signed off.

PSYCHIATRY was also consulted. They described exam as: 
"Currently
appears stuporous, not able to sustain attention/arousal for 
very
long, abrasions/edema L face, abrasions b/l arms, EOMI intact,
pupils pinpoint. No suicidal/homicidal thoughts, no auditory or
visual hallucinations, no paranoid ideation, not agitated at 
this
time." They recommended holding clonazepam, obtaining serum
valproic acid level, serum clozapine level, and nicotine
replacement. They did not see indication for psychiatry
admission. 

He received:
- Keppra 1000mg ___ at 1020)
- 1L NS 
- Divalproex ER 1000mg ___ at 2220)
- Omeprazole 20mg PO ___ at 2220)
- Perphenazine 12mg PO ___ at 2220)
- Keppra 1000mg ___ at 0900)
- Perphenazine 12mg PO (___)
- Ceftriaxone 1g IV (___)
- Azithromycin 500mg IV (___)

On transfer, vitals were 98.3 | 93 | 116/83 | 18 | 96% RA 

On the floor, patient states he had an argument with roommate
over girlfriend, and for unknown reasons to him, fled his home
and tripped, leading to his fall. He currently endorses 
throbbing
headache and mild arm pain with movement, but denies chest pain,
SOB, cough, abdominal pain, diarrhea, constipation, dysuria,
hematuria. No hx of seizure disorder. 
 
Past Medical History:
Schizophrenia
Constipation
Urinary incontinence 
Acute upper respiratory infections
Hyperlipidemia
 
Social History:
___
Family History:
Mom with breast and skin cancer. He is not sure if she is alive 
or dead.
Depression and alcohol use reported in both parents.
Multiple siblings - one with schizophrenia. 
No family history of CAD or stroke that he knows of. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
VITALS: 97.3 F, HR 92, BP 128/88, O2 Sat 92% RA  
GENERAL: Alert, oriented, no acute distress.
HEENT: Ecchymoses below L eye and significant facial edema L>R. 
Copious mucoprurulent discharge from bilateral eyes w/o 
erythema. Sclerae anicteric, poor dentition, oropharynx clear, 
EOMI, PERRL,
CARDIOVASCULAR: Regular rate and rhythm, normal S1 + S2, no
murmurs appreciated. Warm, well-perfused extremities. 
LUNGS: Lungs with good air movement and clear to auscultation 
throughout.
ABDOMEN: Obese. Soft, distended, non-tender bowel sounds 
present, no
organomegaly appreciated, no rebound or guarding. 
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema. 
NEURO: Pt waxing and waning alertness (will close eyes and seem 
to snore but repsond to questions with delayed response). Does 
have flattening of left nasolabial fold and left facial droop 
compared to right but left forehead wrinkles. Pupils are equal 
but sluggish to react. Otherwise, CN II-XII entirely intact and 
with ___ strength bilaterally in all major muscle groups. 
Sensation grossly intact to light touch bilaterally. Very slight 
leftward pronator drift. 
PSYCH: Intermittently tearful and crying but unable to say why, 
then stops. Denies visual or auditory hallucinations. Attentive 
to days of the week backwards. 

DISCHARGE PHYSICAL EXAM 
=======================
VITALS: 97.4 F, HR 94, BP 128/91, O2 Sat 96% RA  
GEN: Disheveled middle-aged man in no acute distress, resting in 
bed
LUNGS: CTAB, no wheezing
CHEST: RRR, no m/r/g
ABDOMEN: Soft, distended, non-tender bowel sounds present. No 
rebound or guarding.
EXT: left hand swelling improved, nontender, motor/sensation 
intact
NEURO: Mild left facial edema, previous left facial droop much 
improved with minimal asymmetry. Pupils equal, sluggish. Moving 
all limbs with purpose. 
PSYCH: labile mood, no current auditory hallucinations 

 
Pertinent Results:
___ 04:21PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:21PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-2* PH-6.5 
LEUK-NEG
___ 04:21PM URINE  RBC-1 WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-<1

___ 10:25AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:10AM   GLUCOSE-111* UREA N-10 CREAT-0.7 SODIUM-144 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-22 ANION GAP-16
___ 09:10AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:10AM   WBC-13.2* RBC-4.43* HGB-13.8 HCT-41.7 MCV-94 
MCH-31.2 MCHC-33.1 RDW-13.2 RDWSD-45.1
___ 09:10AM   PLT COUNT-165
___ 09:10AM   ___ PTT-30.1 ___

___ WBC 8.2 
___ WBC 7.6 

Chest X-ray ___: 
Ill-defined left lower lobe opacities may reflect atelectasis or 
pneumonia in the proper clinical context. 

CT Head ___: 
1. No significant interval change in likely acute to subacute 2 
mm left
frontal subdural hematoma.  No new hemorrhage.
2. Left facial soft tissue hematoma/swelling.

CT Head ___: 
No interval change to slightly decreased conspicuity to the 2 mm 
left frontal extra-axial hyperdensity, possibly reflecting a 
tiny subdural hematoma.

 
Brief Hospital Course:
Brief Hospital Course: 
___ with schizophrenia presents with altered mental status in 
the setting of small subdural hematoma after an unwitnessed 
fall. His hematoma did not expand or require neurosurgical 
intervention. Mental status improved over the course of his 
hospitalization. He continues to require supervision of his ADLs 
per recommendation by physical therapy and thus will need to be 
discharged to rehab. 

ACUTE ISSUES 
=======================
#Altered Mental Status
#Subdural Hemorrhage 
On CT head, patient was found with left frontal subdural 
hematoma, for which neurosurgery was consulted. Given no 
expansion of hematoma on repeat imaging, they recommended Keppra 
1000 mg x7 days and following up in TBI/concussion clinic. His 
somnolence and sad affect (no suicidal/homicidal thoughts, 
hallucinations, paranoid ideation) may be due to polypharmacy as 
he is prescribed multiple sedating medications (clozapine, 
valproic acid, clonazepam) vs delirium caused by 
concussion/injury. His serum and urine toxicology screens were 
negative, and there were minimal signs of infection (a CXR 
showed possible left lower lobe pneumonia or atelectasis, but he 
was afebrile, no respiratory symptoms). He was monitored for 
changes in neurologic status and signs of infection (blood/urine 
cultures negative). His psychiatric medications (clozapine, 
perphenazine, divalproex) were started at lower doses and slowly 
titrated up. 

#Left Facial Assymetric/Edema: involving only left lip and 
nasolabial fold, not forehead suggesting possible central lesion 
vs manifestation of facial edema he also had. This improved 
significantly during hospitalization so asymmetry was likely due 
to edema. 

#Left Hand Edema: patient had moderate left hand swelling 
compared to right hand, but it was nontender; sensation and 
motor intact. Possibly due to IV infiltration, and improved over 
time. 

#Unwitnessed Fall: patient reports possibly tripping over 
himself but he was a poor historian. He was worked up for 
syncope with orthostatic vital signs, EKG and telemetry, all of 
which were unremarkable. Patient worked with ___, whose 
assessment was that he should be discharged to rehab because he 
continues to require supervision for his ADLs with a walker to 
use for ambulation. His group home lacks the resources to 
supervise his ADLs. 

#Schizophrenia: patient endorsed "hearing angels speak to him," 
which, per outpatient psychiatrist, is not far from his 
baseline. Psych was consulted, who recommended reducing dose of 
his medications given his somnolence and then titrating up. He 
was continued on clozapine, perphenazine, divalproex as above, 
but clonazepam was held. 

CHRONIC ISSUES 
=======================
#Constipation: chronic problem 
- Continued home colace/miralax 

#GERD 
- Continued home omeprazole 

#TOBACCO USE: patient notes smoking ___ ppd for ___ years but now 
intermittently smokes 2 pipes per day. Gave nicotine patch while 
inpatient. 

TRANSITIONAL ISSUES
=======================
New Medications: Levetiracetam 1000 mg PO Q12H (requires 2 more 
days, end on ___, Nicotine patch 14 mg TD daily  
Stopped Medications: Clonazepam 0.5 mg PO BID PRN (stopped to 
prevent sedation)
Changed Medications: Clozapine 300 mg QHS (reduced to prevent 
sedation), Divalproex ___ mg QPM (reduced to prevent sedation) 

[ ] Continue to monitor left facial and hand edema 
[ ] Per physical therapy, patient requires supervision of his 
ADLs an walker to assist with ambulation 

___: 
1. PCP ___ within 1 week after 
discharge from rehab. 
2. Psychiatrist Dr. ___ at his earliest available appointment 
___ 10:20 am). 
3. Cognitive Neurology Clinic (___) ___ within 1 
week after discharge from rehab. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Polyethylene Glycol 17 g PO DAILY 
3. Perphenazine 12 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
5. Clozapine 500 mg PO QPM 
6. Divalproex (EXTended Release) 1000 mg PO QPM 
7. ClonazePAM 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO Q12H Duration: 2 Days  
2.  Nicotine Patch 14 mg TD DAILY  
3.  Clozapine 300 mg PO QHS  
4.  Divalproex (EXTended Release) 500 mg PO QPM  
5.  Docusate Sodium 100 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  
7.  Perphenazine 12 mg PO BID  
8.  Polyethylene Glycol 17 g PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Subdural Hematoma 
Schizophrenia 

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Clear and coherent.

 
Discharge Instructions:
WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted after you had a fall and lost consciousness 

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- You had CT scans of your head which showed a small bleed that 
did not expand or require surgical intervention. 
- You were monitored for changes in your neurologic status, and 
we decreased the doses of your home medications because some of 
them can cause you to be over-sedated.  
- You had tests to assess if your heart may have caused you to 
faint, but they did not suggest your heart was the cause. 

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- It is important that you continued to take your medications as 
prescribed.
- You need to follow up with your PCP ___ 
___ leaving the rehab facility.
- You need to follow up with your psychiatrist Dr. ___ 
leaving the rehab facility.
- You need to follow up with concussion clinic. The office will 
contact you at home with an appointment. If you have not heard 
within 2 business days please call the office at ___. 

We wish you the best in your recovery!

Your ___ Care Team

 
Followup Instructions:
___